US04126687
A mixture of 5.6 parts of 6-chloro-1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 4.2 parts of 4-(4-chlorophenyl)-4-piperidinol, 6.4 parts of sodium carbonate, 0.2 parts of potassium iodide and 200 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. After cooling, water is added and the layers are separated. The 4-methyl-2-pentanone-phase is dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The solid residue is crystallized from 4-methyl-2-pentanone, yielding 3.5 parts of 6-chloro-1-{3-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 180.6° C.

reactant | 6-chloro-1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClC=1C=CC2=C(N(C(N2)=O)CCCCl)C1 | C10H10Cl2N2O
reactant | 4-(4-chlorophenyl)-4-piperidinol | ClC1=CC=C(C=C1)C1(CCNCC1)O | C11H14ClNO
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 6-chloro-1-{3-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC=1C=CC2=C(N(C(N2)=O)CCCN2CCC(CC2)(O)C2=CC=C(C=C2)Cl)C1 | C21H23Cl2N3O2
